US07598249B2
4-(3,4-Dibromo-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (intermediate)
A solution of piperazine-1-carboxylic acid tert-butyl ester (3.5 g) and 3,4-dibromobenzaldehyde (5.0 g) in DCM (80 mL) was treated with NaB(OAc)3H (5.6 g). After 16 h, the resulting mixture was treated with 10% aq. KOH (80 mL). The aqueous phase was extracted with DCM (1×80 mL). The organic extracts were combined and dried (MgSO4). Most of the solvent was removed by concentration. Upon standing overnight, the resulting mixture produced crystals that were filtered and washed with DCM (1×5 mL), giving the title compound as a white crystalline solid (6.0 g).

reactant | piperazine-1-carboxylic acid tert-butyl ester | 3.5 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 3,4-dibromobenzaldehyde | 5.0 g | BrC=1C=C(C=O)C=CC1Br | C7H4Br2O
reactant | NaB(OAc)3H | 5.6 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | KOH | 80 mL | [OH-].[K+]
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Dibromo-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 6.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)Br)Br | C16H22Br2N2O2
